US07375134B2
To N2-[1-(4-bromophenyl)-2,2,2-trifluoroethyl]-N1-(cyanomethyl)-L-leucinamide (242 mg, 0.60 mmol), and 4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenylboronic acid (220 mg, 0.72 mmol) in DME (3 mL) under dry nitrogen was added 2M aqueous sodium carbonate (0.9 mL, 1.8 mmol) followed by the catalyst PdCl2(dppf) (63 mg, 0.077 mmol). The reaction was heated to 85° C. for 18 hours. Water was added and the product was extracted with EtOAc, the organic layer was dried over Na2SO4 and concentrated in vacuo. The crude product was purified by chromatography using EtOAc in hexane to afford tert-butyl (4′-{1-[((1S)-1-{[(cyanomethyl)amino]carbonyl}-3-methylbutyl)amino]-2,2,2-trifluroethyl}-1,1′-biphenyl-4-yl)-1-piperazinecarboxylate.

reactant | N2-[1-(4-bromophenyl)-2,2,2-trifluoroethyl]-N1-(cyanomethyl)-L-leucinamide | 0.60 mmol, 242 mg | BrC1=CC=C(C=C1)C(C(F)(F)F)N[C@@H](CC(C)C)C(=O)NCC#N | C16H19BrF3N3O
reactant | 4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenylboronic acid | 0.72 mmol, 220 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)B(O)O | C15H23BN2O4
reactant | sodium carbonate | 1.8 mmol, 2M, 0.9 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
solvent | DME | 3 mL | COCCOC | C4H10O2
catalyst | PdCl2(dppf) | 0.077 mmol, 63 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl (4′-{1-[((1S)-1-{[(cyanomethyl)amino]carbonyl}-3-methylbutyl)amino]-2,2,2-trifluroethyl}-1,1′-biphenyl-4-yl)-1-piperazinecarboxylate | C(#N)CNC(=O)[C@H](CC(C)C)NC(C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)C1N(CCNC1)C(=O)OC(C)(C)C | C31H40F3N5O3
